US06949542B2
4-[3-(2-Cyclopropyl-pyridin-4-yl)-phenyl]-7-methyl-8-trifluoromethyl-1,3-dihydro-benzo[b][1,4]diazepin-2-one
The title compound was prepared from (2-{3-[3-(2-cyclopropyl-pyridin-4-yl)-phenyl]-3-oxo-propionylamino}-5-methyl-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester (Example M267) (286 mg, 0.52 mmol) by treatment with TFA in CH2Cl2 according to the general procedure N. Obtained as a light yellow solid (198 mg, 87%).

reactant | (2-{3-[3-(2-cyclopropyl-pyridin-4-yl)-phenyl]-3-oxo-propionylamino}-5-methyl-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester | 0.52 mmol, 286 mg | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)C)C(F)(F)F)NC(CC(=O)C1=CC(=CC=C1)C1=CC(=NC=C1)C1CC1)=O)=O | C30H30F3N3O4
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 4-[3-(2-Cyclopropyl-pyridin-4-yl)-phenyl]-7-methyl-8-trifluoromethyl-1,3-dihydro-benzo[b][1,4]diazepin-2-one | C1(CC1)C1=NC=CC(=C1)C=1C=C(C=CC1)C1=NC2=C(NC(C1)=O)C=C(C(=C2)C)C(F)(F)F | C25H20F3N3O
